US04861785
A mixture of 2.3 parts of [2-(4-methoxyphenyl)ethyl]methanesulfonate, 4 parts of N-(4-piperidinyl)-2-benzothiazolamine dihydrobromide, 5.3 parts of sodium carbonate, 0.1 parts of potassium iodide and 90 parts of N,N-dimethylformamide was stirred overnight at 70° C. The reaction mixture was poured onto water and the product was extracted with methylbenzene. The extract was washed with water, dried, filtered and evaporated. The residue was crystallized from a mixture of 2-propanol and 2,2'-oxybispropane. The product was filtered off and dried, yielding 1.5 parts (41%) of N-[1-[2-(4-methoxyphenyl)ethyl]-4-piperidinyl]-2-benzothiazolamine; mp. 142.5° C. (178).

reactant | [2-(4-methoxyphenyl)ethyl]methanesulfonate | COC1=CC=C(C=C1)CCCS(=O)(=O)[O-]
reactant | N-(4-piperidinyl)-2-benzothiazolamine dihydrobromide | Br.Br.N1CCC(CC1)NC=1SC2=C(N1)C=CC=C2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | N-[1-[2-(4-methoxyphenyl)ethyl]-4-piperidinyl]-2-benzothiazolamine | 41% | COC1=CC=C(C=C1)CCN1CCC(CC1)NC=1SC2=C(N1)C=CC=C2 | C21H25N3OS
